US06911463B2
The 1.0 M ICl in CH2Cl2 (43 ml, 43 mmol) is added to a solution of 5,7-difluoro-indole (6 g, 39 mmol) in 35 ml pyridine under N2 at 0° C. and the resulting mixture is stirred for 30 minutes. The reaction is diluted with toluene and washed with brine, 1N HCl, 1N NaOH, dried (Na2SO4), filtered and concentrated. The crude 3-iodo-5,7-difluoroindole is stirred in toluene (85 ml) and 5 N NaOH (70 ml), tetrabutylammonium bromide (1.25 g, 3.9 mmol), then benzenesulfonyl chloride (6.2 ml, 48 mmol) are added and the resulting mixture is stirred 24 hours. The two phase reaction mixture is diluted with toluene, washed with brine, dried(Na2SO4), filtered, concentrated and the residue is triturated with diethyl ether/petroleum ether. The resulting solid is filtered to give 14.2 g of N-Benzenesulfonyl-3-iodo-5,7-difluoroindole (87%).

reactant | ICl | 1.0 M | ICl | ClI
reactant | CH2Cl2 | 43 mmol, 43 ml | C(Cl)Cl | CH2Cl2
reactant | 5,7-difluoro-indole | 39 mmol, 6 g | FC=1C=C2C=CNC2=C(C1)F | C8H5F2N
reactant | benzenesulfonyl chloride | 48 mmol, 6.2 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 5 N, 70 ml | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 3.9 mmol, 1.25 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N-Benzenesulfonyl-3-iodo-5,7-difluoroindole | 14.2 g, 87% | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC(=C12)F)F)I | C14H8F2INO2S
